US03931321
384 Parts of 2,5-dichloronitrobenzene and 200 parts of water were introduced into a stirring apparatus and reacted with 1,000 parts of 36% sodium hydrogensulfide solution in the same manner as described in Example 1. Then, the 2,5-dichloroaniline obtained as by-product was separated by steam distillation. After cooling to 20°C 806 parts of sodium sulfite (Na2SO3 . 7 H2O) were added and the pH was adjusted at 6 with 374 parts of 30% hydrochloric acid at a temperature within the range of from +10°C to 12°C within 2 to 3 hours while stirring. The precipitated solid reaction product was suction-filtered, dissolved in 1,000 parts of a 8% sodium hydroxide solution at 50° to 60°C to separate the sulfur and the disulfide; the solution was suction-filtered from the undissolved moiety and 4-chloro-2-aminothiophenol was precipitated from the filtrate at room temperature (20° C) with 242 parts of 30% hydrochloric acid.

reactant | 2,5-dichloronitrobenzene | ClC1=C(C=C(C=C1)Cl)[N+](=O)[O-] | C6H3Cl2NO2
reactant | sodium hydrogensulfide | S.[Na]
solvent | water | O | H2O
product | 2,5-dichloroaniline | Yield: 59% | ClC1=C(N)C=C(C=C1)Cl | C6H5Cl2N
